US08293451B2
Synthesis of N,N-dibutyl-4-bromoaniline
1-Bromobutane (41.1 g, 300 mmol), 4-bromoaniline (17.2 g, 100 mmol) and KOH (16.8 g, 300 mmol) were heated at reflux under nitrogen gas for about 18 hours. After cooling, the mixture was partitioned between water and hexane and the organic layer washed with water followed by brine. After drying over MgSO4 and filtering, the solvent was evaporated and the mixture distilled under reduced pressure. Distillate fractions collected between 25-100° C. and pressure of 360-210 mTorr contained a mixture of products and starting material. The fractions collected at 100-107° C. and 200 mTorr pressure afforded 12.1 g (43%) of pure product.

reactant | 1-Bromobutane | 300 mmol, 41.1 g | BrCCCC | C4H9Br
reactant | 4-bromoaniline | 100 mmol, 17.2 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | KOH | 300 mmol, 16.8 g | [OH-].[K+]
product | N,N-dibutyl-4-bromoaniline | 12.1 g, 43% | C(CCC)N(C1=CC=C(C=C1)Br)CCCC | C14H22BrN
